### PR TITLE
The forest operator proposition

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
In the last commit I moved the Carleson and adjoint operators `carlesonOn, carlesonSum, adjointCarleson, adjointCarlesonSum` to a common file that can be used by both the `ForestOperator` and `Antichain` folders, since lemmas on both sides use the operators in their statements.

### CODE REVIEW

File: Carleson/ToMathlib/Misc.lean [hunk 1]
```diff
@@ -320,6 +320,25 @@ lemma eLpNorm_toReal_eq {f : α → ℝ≥0∞} (hf : ∀ᵐ x ∂μ, f x ≠ 
   · exact eLpNormEssSup_toReal_eq hf
   · exact eLpNorm'_toReal_eq hf
 
+lemma sq_eLpNorm_two {ε : Type*} [ENorm ε] {f : α → ε} :
+    eLpNorm f 2 μ ^ 2 = ∫⁻ x, ‖f x‖ₑ ^ 2 ∂μ := by
+  rw [eLpNorm_eq_lintegral_rpow_enorm two_ne_zero ENNReal.ofNat_ne_top, ENNReal.toReal_ofNat,
```
Comment (fpvandoorn) [inline Carleson/ToMathlib/Misc.lean:325]: This can be simplified (is a special case of) [eLpNorm_nnreal_pow_eq_lintegral](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/LpSeminorm/Defs.html#MeasureTheory.eLpNorm_nnreal_pow_eq_lintegral)

**Review by fpvandoorn — APPROVED** [review]
Thanks a lot, this is great! Just one comment, but I'll merge this as-is anyway.

File: Carleson/ToMathlib/Misc.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Carleson/ToMathlib/Misc.lean:325]: I've simplified this in #382.
